US07728129B2
4-(4-Isopropyl-piperazine-1-carbonyl)-benzaldehyde
4-Isopropyl-piperazine (79.53 g, 0.620 mol), THF (444 g, 5.04 mol), water (36 g, 2 mol) and a 50% solution of sodium hydroxide (130.6 g, 1.63 mol) were charged to a reaction vessel and cooled to 0-5° C. 4-Formyl-benzoyl chloride in THF (110.08 g, 0.630 mol) was added to the 4-isopropyl-piperazine reaction mixture while maintaining the temperature below about 10° C. The resulting white suspension was stirred at room temperature until the reaction was deemed complete. Water was added to the reaction slurry and the resulting hazy solution was filtered over Celite to remove insolubles. The filtered reaction solution was settled and the water layer was removed. The product/THF layer was dried sequentially with magnesium sulfate and molecular sieves. The product solution (KF≦0.5%) was stored at 5° C. for use without further manipulations.

reactant | 4-Isopropyl-piperazine | 0.620 mol, 79.53 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | THF | 5.04 mol, 444 g | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1.63 mol, 130.6 g | [OH-].[Na+]
reactant | 4-Formyl-benzoyl chloride | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | THF | 0.630 mol, 110.08 g | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | water | 2 mol, 36 g | O | H2O
product | 4-(4-Isopropyl-piperazine-1-carbonyl)-benzaldehyde | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H20N2O2
